US06849648B2
A solution of 4-[1-methyl-2,2,4-trioxo-6-(3-phenylprop-1-ynyl)-1,4-dihydro-2H-2λ6-benzo[1,2,6]-thiadiazin-3-ylmethyl]benzoic acid tert-butyl ester (0.075 g, 0.15 mmol) was treated with trifluoroacetic acid (5 mL), and the reaction mixture stirred at room temperature for 30 minutes. The solution was evaporated to dryness, the residue dissolved in ethyl acetate, washed with water, brine, and dried over MgSO4, and evaporated. Trituration with ethyl ether afforded a solid that was collected by filtration, washed with ethyl ether, and allowed to air dry under hose vacuum overnight. This afforded 0.015 g of 4-[1-methyl-2,2,4-trioxo-6-(3-phenylprop-1-ynyl)-1,4-dihydro-2H-2λ6-benzo[1,2,6]-thiadiazin-3-ylmethyl]benzoic acid as a light yellow solid (23.2% yield). 1H-NMR (CDCl3); d 8.24 (d, 1H), 8.08-8.05 (d, 2H), 7.69-7.66 (dd, 1H), 7.57-7.55 (d, 2H), 7.38-7.31 (m, 4H), 7.27-7.23 (m, 1H), 7.18-7.16 (d, 1H), 5.16 (s, 2H), 3.34 (s, 3H). MS: M++1=461.1 Da

reactant | 4-[1-methyl-2,2,4-trioxo-6-(3-phenylprop-1-ynyl)-1,4-dihydro-2H-2λ6-benzo[1,2,6]-thiadiazin-3-ylmethyl]benzoic acid tert-butyl ester | 0.15 mmol, 0.075 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1S(N(C2=C(C1=O)C=C(C=C2)C#CCC2=CC=CC=C2)C)(=O)=O)=O | C29H28N2O5S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[1-methyl-2,2,4-trioxo-6-(3-phenylprop-1-ynyl)-1,4-dihydro-2H-2λ6-benzo[1,2,6]-thiadiazin-3-ylmethyl]benzoic acid | 0.015 g, 23.2% yield | CN1C2=C(C(N(S1(=O)=O)CC1=CC=C(C(=O)O)C=C1)=O)C=C(C=C2)C#CCC2=CC=CC=C2 | C25H20N2O5S
